US07504404B2
3-{5-[7-Trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide
The title compound was prepared from 7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.31) (188 mg, 0.5 mmol) and N-hydroxy-3-sulfamoyl-benzamidine [CAS-No. 9000-88-7] (161 mg, 0.75 mmol) according to general procedure II. Obtained after purification by flash chromatography (ethyl acetate/heptane) and crystallization (dichloromethane) as a light yellow solid (120 mg, 43%). MS (ISN) 552.9 [(M−H)−]; mp 251° C.

reactant | 7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.5 mmol, 188 mg | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC(=CC=C2)C(F)(F)F)(F)F | C15H7F6N3O2
reactant | N-hydroxy-3-sulfamoyl-benzamidine | 0.75 mmol, 161 mg | ONC(C1=CC(=CC=C1)S(N)(=O)=O)=N | C7H9N3O3S
product | 3-{5-[7-Trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide | FC(C1=CC(=NC=2N1N=CC2C2=NC(=NO2)C=2C=C(C=CC2)S(=O)(=O)N)C2=CC(=CC=C2)C(F)(F)F)(F)F | C22H12F6N6O3S
